US04237056
PREPARATION OF N-METHYL-N-(2,2-DIMETHOXYETHYL)-2-CHLOROACETAMIDE
N-Methyl-2,2-dimethoxyethanamine (50.0 grams; 0.42 mole), methylene chloride (200 ml) and triethylamine (46.6 grams; 0.462 mole) were charged into a glass reaction vessel fitted with a mechanical stirrer, and thermometer. A calcium chloride filled drying tube was attached and the solution was cooled to about -20° C. Chloroacetyl chloride (49.7 grams; 0.44 moles) dissolved in methylene chloride (25 ml) was then added dropwise, with stirring, while holding the temperature at about -20° C. to -10° C. At the end of the addition, stirring was continued at -20° C. to 10° C. for a period of about 1 hour. The solution was allowed to warm to room temperature, then was stirred at this temperature for a period of about 16 hours. Diethyl ether (125 ml) was then added and the resulting solution filtered. The filtrate was washed with water (30 ml). The washed filtrate was dried and filtered. The solvent was distilled off under mild heat and reduced pressure to yield a residue which was fractionally distilled under reduced pressure to yield the desired product N-methyl-N-(2,2-dimethoxyethyl)-2-chloroacetamide as a fraction boiling at 112° C.-119° C. at 0.30 mm. Hg.

reactant | N-Methyl-2,2-dimethoxyethanamine | 0.42 mole, 50.0 grams | CNCC(OC)OC | C5H13NO2
reactant | triethylamine | 0.462 mole, 46.6 grams | C(C)N(CC)CC | C6H15N
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | Chloroacetyl chloride | 0.44 moles, 49.7 grams | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | Diethyl ether | 125 ml | C(C)OCC | C4H10O
product | N-methyl-N-(2,2-dimethoxyethyl)-2-chloroacetamide | CN(C(CCl)=O)CC(OC)OC | C7H14ClNO3
